US04012524
2-Methyl-2-isopropyl-6,7-dichloro-1,5-indan-diol is prepared following substantially the same procedure described in Example 4, Step E, using the following substances: 2-methyl-2-isopropyl-5-hydroxy-6,7-dichloro-1-indanone (8.2 g., .03 mole); sodium bis-(2-methoxyethoxy)aluminum hydride (70% in benzene [10 ml.]; and tetrahydrofuran (100 ml.).

reactant | 2-methyl-2-isopropyl-5-hydroxy-6,7-dichloro-1-indanone | .03 mole, 8.2 g | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C(C)C | C13H14Cl2O2
reactant | sodium bis-(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-Methyl-2-isopropyl-6,7-dichloro-1,5-indan-diol | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)O)C(C)C | C13H16Cl2O2
